US07807720B2
6-(4-fluoro-3-methylbenzyloxy)hexanoic acid (A4)
To a solution of oxepan-2-one (0.562 g, 4.925 mmol) and 4-fluoro-3-methylbenzyl bromide (3.000 g, 14.774 mmol) in 20 mL of toluene, was added KOH (1.382 g, 24.625 mmol). The mixture was refluxed for 86 h and after cooling to room temperature, the reaction mixture was diluted with water (80 mL) and washed with ether. The aqueous layer was acidified with concentrated HCl to pH=2 and extracted with ether (50 mL×3). The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure to give the title compound as colorless oil which was used directly in the next step without further purification (1.173 g, 94% yield). LC-MS: tR=8.0 min, m/z 277 (M+H)+.

reactant | oxepan-2-one | 4.925 mmol, 0.562 g | O1C(CCCCC1)=O | C6H10O2
reactant | 4-fluoro-3-methylbenzyl bromide | 14.774 mmol, 3.000 g | FC1=C(C=C(CBr)C=C1)C | C8H8BrF
reactant | KOH | 24.625 mmol, 1.382 g | [OH-].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 mL | O | H2O
product | 6-(4-fluoro-3-methylbenzyloxy)hexanoic acid | 94% yield | FC1=C(C=C(COCCCCCC(=O)O)C=C1)C | C14H19FO3
